data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(Cl)cc(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1c(Cl)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1c(Cl)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1c(Cl)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1c(Cl)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(Cl)cccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(Cl)cccc2Cl)C(=N)C=C1", "products": "COc1c(Cl)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl"}, {"reactants": "COc1c(Cl)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl", "products": "COc1c(Cl)cc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(Cl)cc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(Cl)cc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(Cl)cc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(Cl)cc2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(Cl)cc2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1c(Cl)cc2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCOC1CN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C(CC)(C(=O)C(=[N+]=[N-])C(=O)OC)C1.[Rh]", "products": "CCOC1CN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C(CC)(C(=O)[C](=[Rh])C(=O)OC)C1.N#N"}, {"reactants": "CCOC1CN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C(CC)(C(=O)[C](=[Rh])C(=O)OC)C1", "products": "CCOC1CN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C2(CC)C1.[Rh]"}, {"reactants": "CCOC1CN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C2(CC)C1", "products": "CCOC1CN2C(=O)CC34c5ccccc5N(C)C3C3(C(=O)OC)OC24C(CC)(C1)C3=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCOc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "CCOc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "CCOc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "CCOc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "CCOc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "CCOc1ccc2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)cc(F)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(F)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(F)c1)C(C)C", "products": "Cc1cc(F)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "Cc1cc(F)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "Cc1cc(F)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "Cc1cc(F)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cc(F)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "Cc1cc(F)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "Cc1cc(F)cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)C)c(F)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1cccc(Cl)c1", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(Cl)c1"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(Cl)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(Cl)c1", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1cccc(Cl)c1"}]}
